US06646009B2
(E)-4-methoxystyryl-N-4-fluorophenyl sulfonamide
A solution of (E)-4-methoxystyrylsulfonyl chloride (10 mmol) and 4-fluoroaniline (10 mmol) was subjected to General Procedure 1, part B. The title compound, melting point 115-117° C., was obtained 86.4% yield.

reactant | (E)-4-methoxystyrylsulfonyl chloride | 10 mmol | COC1=CC=C(/C=C/S(=O)(=O)Cl)C=C1 | C9H9ClO3S
reactant | 4-fluoroaniline | 10 mmol | FC1=CC=C(N)C=C1 | C6H6FN
product | (E)-4-methoxystyryl-N-4-fluorophenyl sulfonamide | 86.4% yield | COC1=CC=C(/C=C/S(=O)(=O)NC2=CC=C(C=C2)F)C=C1 | C15H14FNO3S
